US06599902B2
Thionyl chloride (5 mL, 2M in DCM) was added to a solution of [2-(2-morpholin-4-yl-ethoxy)-phenyl]-methanol (1.97 g, 8.3 mmol) in DCM (15 mL) at 0° C. The mixture was allowed to warm up to rt and stirred for 3 hours. The reaction was concentrated to give 4-[2-(2-chloromethyl-phenoxy)-ethyl]-morpholine hydrochloride.

reactant | Thionyl chloride | 2M, 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | [2-(2-morpholin-4-yl-ethoxy)-phenyl]-methanol | 8.3 mmol, 1.97 g | N1(CCOCC1)CCOC1=C(C=CC=C1)CO | C13H19NO3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(2-chloromethyl-phenoxy)-ethyl]-morpholine hydrochloride | Cl.ClCC1=C(OCCN2CCOCC2)C=CC=C1 | InChI=1S/C13H18ClNO2.ClH/c14-11-12-3-1-2-4-13(12)17-10-7-15-5-8-16-9-6-15;/h1-4H,5-11H2;1H
